US06518423B1
Ethyl (±)-(6R*,7R*)-(3,6,7-trimethyl-3-azabicyclo[3.2.1]oct-8-ylidene)acetate
To a solution of 4.35 g of triethyl phosphonoacetate in tetrahydrofuran (50 ml) was added 0.85 g of sodium hydride (oily: 60-72%) under ice-cooling and the resulting mixture was stirred at 0° C. for 10 minutes. Then a solution of 2.7 g of the crude (6R*,7R*)-3,6,7-trimethyl-3-azabicyclo[3.2.1]octan-8-one in tetrahydrofuran (20 ml) was added thereto and the reaction mixture was heated under reflux for 1 hour. After adding ethyl acetate, the reaction mixture was washed with a saturated aqueous solution of sodium chloride and the organic layer was dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 1.6 g of the title compound as a pale yellow oily substance.

reactant | sodium hydride | 0.85 g | [H-].[Na+]
reactant | (6R*,7R*)-3,6,7-trimethyl-3-azabicyclo[3.2.1]octan-8-one | 2.7 g | CN1CC2[C@@H]([C@H](C(C1)C2=O)C)C | C10H17NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Ethyl (±)-(6R*,7R*)-(3,6,7-trimethyl-3-azabicyclo[3.2.1]oct-8-ylidene)acetate | 1.6 g | CN1CC2[C@@H]([C@H](C(C1)C2=CC(=O)OCC)C)C | C14H23NO2
